US04211783
To a stirred solution of 102 gm. 16-hydroxyhexadecanoic acid in 720 ml. 32% hydrobromic acid in acetic acid is slowly added 180 ml. sulfuric acid. After stirring at room temperature overnight the solution is refluxed for 3 hours. An additional 180 ml. solvent is added and reflux is resumed for an additional 4 hours. The warm solution is slowly poured into 2 l. of stirred ice-water, the precipitate is collected and thoroughly washed with water. Crystallization from acetonitrile yields 16-bromohexadecanoic acid as white crystals.

reactant | 16-hydroxyhexadecanoic acid | OCCCCCCCCCCCCCCCC(=O)O | C16H32O3
reactant | hydrobromic acid | Br | BrH
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 16-bromohexadecanoic acid | BrCCCCCCCCCCCCCCCC(=O)O | C16H31BrO2
